US07294721B2
(R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole-monohydrochloride
A suspension of 11 g (23 mmol) of (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole in 88 mL methanol is heated to 35° C. to 40° C. To this suspension are added 8.4 mL of a 2.75 molar solution of hydrogen chloride (23 mmol) in ethyl acetate. The starting material is dissolved and the hydrochloride begins to crystallise out. The suspension is cooled to 20° C. and suction filtered. The filter cake is dried in the vacuum drying cupboard at 35° C. 9.2 g (78% of theory) of the title compound are obtained as a crystalline solid.

reactant | (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | 23 mmol, 11 g | C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)O | C25H31N7O3
reactant | hydrogen chloride | 23 mmol | Cl | ClH
solvent | methanol | 88 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole-monohydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)O | InChI=1S/C25H31N7O3.ClH/c1-25(29-15-22(33)34,24(35)32-11-3-4-12-32)17-7-10-20-19(13-17)30-21(31(20)2)14-28-18-8-5-16(6-9-18)23(26)27;/h5-10,13,28-29H,3-4,11-12,14-15H2,1-2H3,(H3,26,27)(H,33,34);1H/t25-;/m1./s1
